US08865848B2
2-isobutyl-4-Bromo-3,5,6,7-tetrahydro-s-indacen-1(2H)-one
To a suspension of 14.6 g (110 mmol) of AlCl3 in 40 ml of dichloromethane a solution of 10.0 g (43.8 mmol) of 2-isobutyl-3,5,6,7-tetrahydro-s-indacen-1(2H)-one in 25 ml of dichloromethane was added dropwise by vigorous stirring at 0° C. Further on, 7.71 g (48.2 mmol) of bromine was added dropwise at this temperature. The resulting mixture was stirred overnight at room temperature and then poured on 500 cm3 of ice. The product was extracted by 3×200 ml of dichloromethane. The combined organic extract was washed by water, aqueous NaHCO3, dried over Na2SO4, and evaporated to dryness. The product was isolated by flash chromatography on silica gel 60 (40-63 um, eluent: hexanes-dichloromethane=3:1, vol.). Yield 9.40 g (70%) of the title product.

reactant | AlCl3 | 110 mmol, 14.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 2-isobutyl-3,5,6,7-tetrahydro-s-indacen-1(2H)-one | 43.8 mmol, 10.0 g | C(C(C)C)C1C(C2=CC=3CCCC3C=C2C1)=O | C16H20O
reactant | bromine | 48.2 mmol, 7.71 g | BrBr | Br2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-isobutyl-4-Bromo-3,5,6,7-tetrahydro-s-indacen-1(2H)-one | Yield 9.40 g, 70% | C(C(C)C)C1C(C2=CC=3CCCC3C(=C2C1)Br)=O | C16H19BrO
